Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
shortness of breath, anorexia
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ male with history of HIV (CD4 
count 40 as of ___ and recent diagnosis of PCP ___ (on 
Bactrim) who presents with 6 weeks of shortness of breath and 
productive cough as well as anorexia and weight loss. Mr. 
___ states that he began noticing malaise and cough 
productive of white-yellow sputum without hemoptysis around 
___ but originally did not seek care. Symptoms 
persisted until he presented to his PCP ___ and was 
initially prescribed levofloxacin; Bactrim and azithromycin were 
subsequently prescribed for PCP coverage and MAC ppx. He notes 
that his symptoms have improved over the last week including 
decrease in cough as well as sputum production; however, he 
remains short of breath at rest.  He again saw his PCP ___ 
___ who recommended that he present to ___ ED for work-up 
given limited response to treatment.

Also around ___ Mr. ___ realized that he had lost 
~30 pounds secondary to decreased appetite. He states that he 
found himself unable to taste his food and subsequently had 
decreased intake. He originally did not realize the extent of 
his decreased intake/weight loss due to preoccupation with 
stress at work. He was diagnosed with oral candidiasis by his 
PCP and is currently on fluconazole.

Of note, Mr. ___ was diagnosed with HIV in ___ and 
initially on Stribild but became non-adherent after 1 month 
given inability to afford co-payment. He states that he has 
restarted treatment within the last 2 weeks but does not know 
how he will afford treatment going forward.

In the ED, initial vital signs were initially: T 98.3 P ___ BP 
119/82 RR 26 O2 sat 96% 4L.  
Exam notable for  tachypnea, dyspnea, diminished air entry at 
bases w/ trace crackles, tacky mucous membranes, and thrush of 
oropharynx.
Labs were notable for: Na 130, BUN 30, H/H 10.2/31/1.
CXR showed diffused infiltrates. 
Patient was given: IV solumedrol, NSS bolus x 1, Bactrim (PCP 
___, vancomycin, cefepime, fluconazole.
 
Past Medical History:
- HIV - diagnosed in ___ treatment initiated in ___ but 
inconsistently adherent
 - Bilateral inguinal hernias
 
Social History:
___
Family History:
No history of chronic disease.
 
Physical Exam:
PHYSICAL EXAM on ADMISSION: 

Vitals:  T 97.7, BP 113/68, HR 70, RR 18, <94% 4L
General: Thin, dyspneic but alert and oriented. 
HEENT: Extra-ocular movements intact without nystagmus. Pupils 
round and equally reactive, 4mm - 2mm. Mucous membranes dry. 
Tongue appears cracked.
Lymph: No cervical or supraclaviclar lymphadenopathy.
CV:  Regular rate, rhythm. Normal S1 and S2 heard. No rubs, 
murmurs, gallops noted. No JVD.
Lungs: Coarse breath sounds heard in both lung fields. 
Abdomen: Thin, soft, non-tender, non-distended. No 
hepatosplenomegaly noted.
GU:  Deferred.
Ext:  2+ distal pulses. No peripheral edema. 
Neuro:  CN II-XII intact to direct testing.
Skin:  Cool, clammy but not cyanotic. No rashes or discoloration 
observed.

PHYSICAL EXAM on DISCHARGE:

Vitals:  T98.6/97.6 BP 129-135/85-96 HR ___ RR ___ 94-98% on 
RA
General: Lying comfortably in bed; no apparent distress.  
HEENT:  Notable bitemporal wasting. EOMI. Mucous membranes 
moist. Tongue showing extensive fissuring. No exudates noted.
Lungs:  Improved air movement noted over previous exams. Mild 
inspiratory wheezing bilaterally.
CV:  RRR, normal S1 + S2, no m/r/g.
Abdomen:  Soft, NT/ND.
Ext: 2+ pulses in distal extremities. No peripheral edema.  
Neuro: Full strength and sensation in bilateral extremities
 
Pertinent Results:
LABS on ADMISSION:

___ 06:20PM BLOOD WBC-7.2 RBC-3.47* Hgb-10.2* Hct-31.1* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-14.0 RDWSD-45.1 Plt ___
___ 06:20PM BLOOD Neuts-77.4* Lymphs-9.6* Monos-7.0 Eos-4.9 
Baso-0.3 Im ___ AbsNeut-5.54 AbsLymp-0.69* AbsMono-0.50 
AbsEos-0.35 AbsBaso-0.02
___ 06:20PM BLOOD Plt ___
___ 06:20PM BLOOD Glucose-91 UreaN-30* Creat-1.1 Na-130* 
K-5.1 Cl-97 HCO3-22 AnGap-16
___ 06:20PM BLOOD LD(LDH)-271*
___ 12:50PM BLOOD ALT-30 AST-33 LD(LDH)-185 AlkPhos-93 
TotBili-0.2
___ 06:20PM BLOOD Calcium-9.3 Phos-3.0 Mg-1.9
___ 09:56PM BLOOD Type-ART pO2-42* pCO2-28* pH-7.48* 
calTCO2-21 Base XS-0
___ 10:25PM BLOOD Type-ART pO2-68* pCO2-27* pH-7.49* 
calTCO2-21 Base XS-0
___ 06:33PM BLOOD Lactate-1.3
___ 10:25PM BLOOD Lactate-0.7

PERTINENT STUDIES:

- CXR (___):
Multifocal pneumonia.  Followup radiographs are recommended 
after treatment to
ensure resolution of this finding.

LABS on DISCHARGE:

___ 06:30AM BLOOD WBC-10.6* RBC-3.58* Hgb-10.6* Hct-32.3* 
MCV-90 MCH-29.6 MCHC-32.8 RDW-14.4 RDWSD-46.3 Plt ___
___ 06:30AM BLOOD Plt ___
___ 06:30AM BLOOD Glucose-128* UreaN-27* Creat-0.8 Na-133 
K-4.7 Cl-102 HCO3-22 AnGap-14
___ 06:30AM BLOOD ALT-89* AST-55* LD(LDH)-140 AlkPhos-91 
TotBili-0.1
___ 06:30AM BLOOD Calcium-9.1 Phos-2.5* Mg-2.0
 
Brief Hospital Course:
Mr. ___ is a ___ man with history of AIDS (CD4=43, 
VL >131,000, currently on Stribild), who presents with 6 weeks 
of SOB and productive cough and cachexia. 

#Pneumonia: It was persistent for 6 weeks. Appearance of patchy 
infiltrates over bilateral lung fields on CXR as well as 
elevated glucan and low PaO2 on initial presentation suggestive 
of PCP pneumonia, particularly in the setting of known AIDS. 
Immunoflourescent test for PCP negative, but patient had begun 
treatment with Bactrim with his outpatient provider and 
infection may have been resolving by the time of laboratory 
testing. TB less likely given sputum smear negative for AFB x3. 
Continued Bactrim PO 160 mg 2 TAB PO TID x 21 days ___ - 
___, continued Azithromycin 500 mg PO DAILY x 10 
___ - ___, then to resume prophylactic dosage. PO 
prednisone 40 mg BID x 5 days (___) then taper as 
follows: Prednisone 40 mg ONCE DAILY for 5 days 
___ Prednisone 20 mg ONCE DAILY for 11 days 
___ Taper down from 20mg as appropriate to 
prevent adrenal insufficiency.  

#Weight loss: Likely due to chronic limited PO intake given 
anorexia secondary to oral candidiasis as well as several weeks 
of diarrhea. This is further suggested by his consistent weight 
gain since admission and adequate PO intake. However, given the 
significance of his weight loss (~30 lbs) and history of 
immunodeficiency, must consider the possibility of malignancy.
 - Regular diet; encourage appropriate POs
 - Ensure TID for repletion
 - Replete lytes PRN

#AIDS, CD4+ count 43, VL >131,000: Currently on Stribild x 2 
weeks, previously off treatment for ___ year. Decompensation due 
to loss to follow-up and evidenced by development of oral 
candidiasis and likely pneumonia. Genotype pending @ ___ 
___, continued on Stribild.

#Candidiasis: RESOLVED. Patient reporting resolution of 
gustatory sensation and with improving exam. Continued home 
Fluconazole 200 mg PO daily initially, then switched to nystatin 
for discharge.

#Hyponatremia: RESOLVED. Apparent hypovolemic hyponatremia. 
Likely due to low dietary solute intake.

#Diarrhea: RESOLVED. Likely due to infectious gastroenteritis. 
Possible etiologies include common pathogens such as E. Coli, C. 
difficile, and salmonella.  C. diff negative. 

#Hyperkalemia: RESOLVED. Team was paged by nurse for ?peaked T 
waves on telemetry; AM labs showed K 5.4. EKG ordered.

#Transaminitis: new on ___, unclear etiology at this time. 
Possible medication effect (reinitiation of stribild) versus 
refeeding effect. No evidence of synthetic dysfunction as bili 
is normal but no coags today. No further workup at this time.

#Anemia: Chronicity unclear; likely iron deficiency vs. anemia 
of chronic disease. Trended CBC.
 
#Tobacco use: 30-pack-year smoking history. On Nicotine patch. 
Monitored withdrawal sx.

TRANSITIONAL ISSUES:
- Continue Bactrim for total of 21 days (Day ___, Stop ___
- Prednisone 40mg BID (___)
- Prednisone 40mg daily (___)
- Prednisone 20mg daily (___)
- Labs on ___ (to be ordered by ___
- Follow up with PCP
# Code: Full Code 
# Emergency Contact: ___ ___
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Stribild 1 TAB PO DAILY 
2. Sulfameth/Trimethoprim DS 2 TAB PO DAILY 
3. Fluconazole 200 mg PO Q24H 
4. Azithromycin 1200 mg PO 1X/WEEK (MO) 

 
Discharge Medications:
1. Stribild 1 TAB PO DAILY 
RX *elviteg-cobi-emtric-tenofo dis [Stribild] 150 mg-150 mg-200 
mg-300 mg 1 tablet(s) by mouth once daily Disp #*30 Tablet 
Refills:*0
2. Sulfameth/Trimethoprim DS 2 TAB PO TID 
RX *sulfamethoxazole-trimethoprim [Bactrim DS] 800 mg-160 mg 2 
tablet(s) by mouth three times a day Disp #*108 Tablet 
Refills:*0
3. Nystatin Oral Suspension 10 mL PO QID:PRN thrush 
RX *nystatin 100,000 unit/mL 1 by mouth QID:PRN Refills:*0
4. PredniSONE 40 mg PO BID Duration: 5 Days 
RX *prednisone 20 mg 1 tablet(s) by mouth daily Disp #*23 Tablet 
Refills:*0
5. Azithromycin 1200 mg PO 1X/WEEK (MO) 
RX *azithromycin 600 mg 1 tablet(s) by mouth once weekly Disp 
#*12 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary Diagnosis:
PCP pneumonia
AIDS
malnutrition

Secondary Diagnoses:
Oral candidiasis
chronic diarrhea

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at ___. You were admitted 
because you had worsening shortness of breath and you had poor 
food intake and diarrhea, causing you to lose weight. You were 
found to have PCP ___ (pneumocystis pneumonia) in the 
setting of low CD4 count (43) and viral load 131,000. You 
received antibiotics for your PCP ___. You will complete 
the course with Bactrim  (21 days) and azithromycin, and 
afterward you will take prophylaxis dose. You are also on 
steroids for your pneumonia, take 40mg daily for 5 days then 
20mg daily. Your PCP ___ help you adjust your taper. You should 
not stop the prednisone unless your doctor tells you. 

If you have any trouble affording your HIV medicine, please call 
___ immediately.

___ will order labs for this ___ for any Quest. Please 
follow up at ___ on ___ or ___.

We wish you the best,

Your ___ team

- Continue Bactrim for total of 21 days (Day ___, Stop ___
- Prednisone 40mg BID (___)
- Prednisone 40mg daily (___)
- Prednisone 20mg daily (___)
 
Followup Instructions:
___